US08981085B2
(R)-tert-Butyl 1-(5-chloro-3-(2-hydroxy-2-methylpropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (221 mg, 0.489 mmol) was stirred in trifluoroacetic acid (3 mL) at room temperature for 1.5 hours. The solvent was evaporated in vacuo, and the residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 2-55% CH3CN/water, 25CV). The isolated product was taken up in a minimal volume of methanol and added to a stirred solution of 2N HCl-Et2O. The salt formed was collected by filtration, washed with acetonitrile and dried under vacuum to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxy-2-methylpropanamide hydrochloride (103 mg, 50% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.05 (s, 1H), 7.53 (s, 1H), 3.64-3.48 (m, 2H), 3.53-3.22 (m, 1H), 3.24-3.16 (m, 1H), 3.12-3.04 (m, 1H), 2.12-2.04 (m, 1H), 1.80-1.66 (m, 2H), 1.56-1.44 (m, 1H), 1.38 (s, 3H), 1.35 (s, 3H). LCMS (APCI+) m/z 352.1, 354.1 (M+H)+, Retention time=2.02 minutes.

reactant | (R)-tert-Butyl 1-(5-chloro-3-(2-hydroxy-2-methylpropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.489 mmol, 221 mg | ClC=1C(=C2C(=NC1)NC=C2NC(C(C)(C)O)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H30ClN5O4
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxy-2-methylpropanamide hydrochloride | 103 mg, 50% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Cl)NC=C2NC(C(C)(C)O)=O | InChI=1S/C16H22ClN5O2.ClH/c1-16(2,24)15(23)21-11-7-20-14-12(11)13(10(17)6-19-14)22-5-3-4-9(18)8-22;/h6-7,9,24H,3-5,8,18H2,1-2H3,(H,19,20)(H,21,23);1H/t9-;/m1./s1
